US09371318B2
Step 3: (4-(2,2-Dimethoxyethyl)phenyl)methanol
To a cooled (−78° C.) solution of methyl 4-(2,2-dimethoxyethyl)benzoate (assume 7.08 mmol) in THF (30 mL) was added drop wise a solution of lithium aluminium hydride (2.0 M in THF, 3.50 mL, 7.00 mmol). The reaction mixture was allowed to warm to RT over 4 hours. The mixture was sequentially treated with water (0.266 mL), 2M aqueous sodium hydroxide (0.266 mL) and water (3×0.266 mL). The mixture was diluted with ethyl acetate and magnesium sulfate added. The mixture was stirred at RT for 1 hour and then filtered through celite. The filter cake was washed with further ethyl acetate and the filtrates combined. The solvent was evaporated at reduced pressure and the residue was purified by flash column chromatography eluting with 0-30% ethyl acetate in iso-hexane to afford the title compound (0.854 g, 62%).

reactant | methyl 4-(2,2-dimethoxyethyl)benzoate | 7.08 mmol | COC(CC1=CC=C(C(=O)OC)C=C1)OC | C12H16O4
reactant | lithium aluminium hydride | 7.00 mmol, 2.0 M, 3.50 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.266 mL | O | H2O
reactant | sodium hydroxide | 2M, 0.266 mL | [OH-].[Na+]
reactant | water | 0.266 mL | O | H2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
product | (4-(2,2-Dimethoxyethyl)phenyl)methanol | 0.854 g, 62% | COC(CC1=CC=C(C=C1)CO)OC | C11H16O3
